US07989622B2
A CEM microwave reaction vessel was charged with N-(3-chloroquinoxalin-2-yl)benzenesulfonamide (52 mg, 0.16 mmol), prepared using procedures similar to those described in the above step, 4-fluoroaniline (36 mg, 0.32 mmol), and 0.8 mL of dimethylacetamide. The vessel was sealed and the reaction mixture was heated under microwave radiation for 25 m at 120° C. in a CEM Discover microwave instrument. Methanol (1 mL) was added to the reaction mixture and after 20 minutes the product precipitated out of the solution. Filtration yielded N-(3-(4-fluorophenylamino)quinoxalin-2-yl)benzenesulfonamide (39 mg, 62%). 1H-NMR (400 MHz, d6-DMSO): δ 12.30 (s, 1H), 9.11 (s, 1H), 8.16-8.10 (d, 2H), 8.02-7.90 (m, 3H), 7.68-7.58 (m, 3H), 7.55-7.51 (m, 1H), 7.41-7.32 (m, 2H), 7.25-7.16 (m, 2H); MS (EI) m/z C20H15FN4O2S: 395.0 (MH+).

reactant | N-(3-chloroquinoxalin-2-yl)benzenesulfonamide | 0.16 mmol, 52 mg | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=CC=C1 | C14H10ClN3O2S
reactant | 4-fluoroaniline | 0.32 mmol, 36 mg | FC1=CC=C(N)C=C1 | C6H6FN
reactant | dimethylacetamide | 0.8 mL | CC(=O)N(C)C | C4H9NO
solvent | Methanol | 1 mL | CO | CH4O
product | N-(3-(4-fluorophenylamino)quinoxalin-2-yl)benzenesulfonamide | 39 mg, 62% | FC1=CC=C(C=C1)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=CC=C1 | C20H15FN4O2S
